US06559172B1
Preparation of (4R*,5S*)-5-Benzo[1,3]dioxol-5-yl-4-(toluene-4-sulfonyl)-4,5-dihydro-1,3-oxazole
In a manner analogous to Preparation 1, tosylmethylisocyanide (0.23 g, 1.20 mmol), piperonal (0.19 g, 1.26 mmol) and NaCN (5.9 mg, 0.12 mmol) gave the desired compound as a tan solid. MS(ES+) m/z 346.5 (M+H+).

reactant | tosylmethylisocyanide | 1.20 mmol, 0.23 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | piperonal | 1.26 mmol, 0.19 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | NaCN | 0.12 mmol, 5.9 mg | [C-]#N.[Na+]
product | (4R*,5S*)-5-Benzo[1,3]dioxol-5-yl-4-(toluene-4-sulfonyl)-4,5-dihydro-1,3-oxazole | O1COC2=C1C=CC(=C2)[C@H]2[C@H](N=CO2)S(=O)(=O)C2=CC=C(C=C2)C | C17H15NO5S
